US08492372B2
1-[(7-BROMO-5-FLUORO-4H-1,3-BENZODIOXIN-2-YL)-N-METHYLMETHANAMINE
Preparation according to Example 12. 7-bromo-2-(bromomethyl)-5-fluoro-4H-1,3-benzodioxine (0.50 g, 1.53 mmol), methanamine (2.0 ml, 33% in EtOH) and EtOH (4.0 ml) were heated in a micro wave oven at 120° C. for 1 h 5 min. The volatiles were evaporated in vacuum and the crude product was chromathographed twice on a silica column using EtOAc/MeOH (4:1) as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded the title compound (0.40 g, 94%). 1H-NMR (400 MHz, MeOD): δ 6.93 (2H, m), δ 5.26 (1H, t, J 4.8 Hz), δ 4.93 (2H, dd, J1 18.4 Hz, J2 15.2 Hz), δ 3.02 (2H, m), δ 2.53 (3H, s) ppm.

reactant | 7-bromo-2-(bromomethyl)-5-fluoro-4H-1,3-benzodioxine | 1.53 mmol, 0.50 g | BrC=1C=C(C2=C(OC(OC2)CBr)C1)F | C9H7Br2FO2
reactant | methanamine | 2.0 ml | CN | CH5N
solvent | EtOH | 4.0 ml | CCO | C2H6O
product | (7-BROMO-5-FLUORO-4H-1,3-BENZODIOXIN-2-YL)-N-METHYLMETHANAMINE | 0.40 g, 94% | BrC=1C=C(C2=C(OC(OC2)CNC)C1)F | C10H11BrFNO2
